US06110962
3-Pyridin-3-yl-propionic acid, ethyl ester
According to the procedure of B. A. Lefker, W. A. Hada, P. J. McGarry Tetrahedron Lett. 1994, 35, 5205-5208, a solution of sodium bis(trimethylsilyl)amide (1.0 N in THF, 44.3 mL, 44.3 mmol) was added dropwise at a rate to keep the temperature below -50° C. to a stirred solution of 3-pyridine carboxaldehyde (4.41 mL, 46.7 mmol), ethyl chloroacetate (4.93 mL, 46.7 mmol) and THF (34 mL) under a dry nitrogen atmosphere. After 45 min at -78° C., the reaction mixture was warmed to 0° C. and then quenched with water and concentrated. The residue was partitioned between ether and water. The ether phase was dried with brine and concentrated. The residue was dissolved in erthyl acetate and palladium hydroxide on carbon (wet, Degussa type, 20% Pd content, 1 g) was added. The mixture was hydrogenated at 45 psi hydrogen pressure for 2 h. The reaction mixture was filtered thru sulka floc and the solvent was removed. The residue was flash chromatographed (2:3 petroleum ether:ethyl acetate, eluent) to provide the title compound as an oil (3.83 g, 42%): NMR (CDCl3); 8.24 (m, 2 H), 7.60 (d, 1 H), 7.22 (dd, 1 H), 4.45 (t, 1 H), 4.22 (q, 2 H), 3.15 (dd, 1 H), 2.95 (dd, 1 H), 1.27 (t, 3 H).

reactant | sodium bis(trimethylsilyl)amide | 44.3 mmol, 1.0 N, 44.3 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 3-pyridine carboxaldehyde | 46.7 mmol, 4.41 mL | N1=CC(=CC=C1)C=O | C6H5NO
reactant | ethyl chloroacetate | 46.7 mmol, 4.93 mL | ClCC(=O)OCC | C4H7ClO2
solvent | THF | 34 mL | C1CCOC1 | C4H8O
product | 3-Pyridin-3-yl-propionic acid, ethyl ester | 3.83 g, 42% | N1=CC(=CC=C1)CCC(=O)OCC | C10H13NO2
